// Point Netlist Generated on: Jun 10 12:47:48 2026
// Generated for: spectre
// Design Netlist Generated on: Jun 10 12:36:43 2026
// Design library name: test_28hv
// Design cell name: C2LR_Wv_Pdyn
// Design view name: schematic
simulator lang=spectre
include "ade_e.scs"
global 0
include "$SPECTRE_MODEL_PATH/design_wrapper.lib.scs" section=tt_pre
parameters temperature=26.9 \
    pwlfile="/home/h638985/projects/Apollo_v1/skill/C2LR_Wv_Pdyn/sine_1MHz_12p5V.pwl" \
    Vampin=12.5 vH=1 vL=-1 Ramp=20 Vamprf=0 RF_Freq=40M iFreq=1M vmax=12.5 \
    vmin=-12.5 wireopt=5 DUT_TEMP_K=300 pw=0 Vdc=0 Rsw=1k Cout=1p Cin=100p \
    tp=(1 / iFreq) DUT_TEMP=(DUT_TEMP_K - 273.1) td=1u tf=(tp / 2) tr=(tp \
    / 2) tend=20u

// Library name: test_28hv
// Cell name: C2LR_network_nosw
// View name: schematic
subckt C2LR_network_nosw Vo en\<1\> en\<0\> enb\<1\> enb\<0\> gnd inA inB \
        vdh vss
    C3 (velec Vo) capacitor c=500.0a
    C2 (velec gnd) capacitor c=8f
    C0 (vout gnd) capacitor c=Cout
    R0 (inA vout) resistor r=Rsw
    R1 (vout velec) resistor r=5
ends C2LR_network_nosw
// End of subcircuit definition.

// Library name: test_28hv
// Cell name: C2LR_Wv_Pdyn
// View name: schematic
C4 (vB gnd) capacitor c=Cin
C1 (vA gnd) capacitor c=Cin
V9 (vBen gnd) vsource type=pwl wave=[ 0 vL (td+10*tr+10n) vL \
        (td+10*tr+30n) vL (td+11*tr) vL ]
V8 (vAen gnd) vsource type=pwl wave=[ 0 vH (td+10*tr) vH (td+10*tr+10n) vH \
        (td+11*tr) vH ]
E3 (en\<1\> gnd vBen gnd) vcvs gain=12.5 type=vcvs
E2 (enb\<1\> gnd vBen gnd) vcvs gain=-12.5
E1 (enb\<0\> gnd vAen gnd) vcvs gain=-12.5
E0 (en\<0\> gnd vAen gnd) vcvs gain=12.5 type=vcvs
V3 (vdh gnd) vsource dc=vmax type=dc
V2 (vss gnd) vsource dc=vmin type=dc
V1 (gnd 0) vsource dc=0 type=dc
Isw\<0\> (vrf en\<1\> en\<0\> enb\<1\> enb\<0\> gnd net4 vB vdh vss) \
        C2LR_network_nosw
V7 (vinA gnd) vsource type=pwl file=pwlfile
Rprobe (vA net4) resistor r=0 isnoisy=no
R2 (vinB vB) resistor r=Ramp
R0 (vinA vA) resistor r=Ramp
V4 (vrf gnd) vsource dc=0 mag=0 phase=0 type=sine ampl=Vamprf sinephase=0 \
        freq=RF_Freq
V6 (vinB gnd) vsource dc=Vdc mag=0 phase=0 type=sine ampl=0 sinephase=0 \
        freq=iFreq
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=DUT_TEMP tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=sqldb 
tran tran stop=tend errpreset=moderate skipdc=yes write="spectre.ic" \
    writefinal="spectre.fc" method=gear2only annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Rprobe:1 
saveOptions options save=allpub
